US07511050B2
Step B: 3-methyl-7-(methylthio)-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one
A solution of 6-(4-methoxybenzyl)-3-methyl-7-(methylthio)-9-pentyl-6,9-dihydro-5h-[1,2,4]triazolo[4,3-a]purin-5-one (200 mg, 469 mmol) in trifluoroacetic acid (5 ml, 64.9 mmol) was stirred at 55° C. overnight. The solution was concentrated and purified by prep LCMS to yield the desired product (60 mg, 42%). 1HNMR (300 MHz, CD3OD): δ 4.42 (t, J=7.5 Hz, 2H), 2.74 (s, 3H), 2.45 (s, 3H), 1.92 (m, 2H), 1.39 (m, 4H), 0.92 (m, 3H). LCMS calculated for C13H19N6OS(M+H): 307.1; found 307.1.

reactant | 6-(4-methoxybenzyl)-3-methyl-7-(methylthio)-9-pentyl-6,9-dihydro-5h-[1,2,4]triazolo[4,3-a]purin-5-one | 469 mmol, 200 mg | COC1=CC=C(CN2C(=NC=3N(C=4N(C(C23)=O)C(=NN4)C)CCCCC)SC)C=C1 | C21H26N6O2S
reactant | trifluoroacetic acid | 64.9 mmol, 5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-methyl-7-(methylthio)-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one | 60 mg, 42% | CC1=NN=C2N1C(C=1NC(=NC1N2CCCCC)SC)=O | C13H18N6OS
